US03950423
10,11-Dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one
A solution of 989 mg. (0.00328 mole) of 10,11-dihydro-5,5,10,10,11,11-hexafluoro-5H-dibenzo[a,d]cycloheptene in 13.2 ml. of glacial acetic acid --3.5 ml. of 6 N hydrochloric acid is held at room temperature for approximately 20 hours, heated in a 65°C. bath for 3 hours, again held at room temperature for about 20 hours, and finally heated in a 65°C. bath for 3 hours. The solution is concentrated under reduced pressure and the residue partitioned between benzene and water. The benzene extract is washed with water, dried over anhydrous sodium sulfate, and evaporated to dryness under reduced pressure. Sublimation of the residue at 80°C. and 0.1 mm. yields the crude product as an oily solid. Purification is effected by column chromatography on silica gel, the product being eluted with carbon tetrachloride. The fractions that show one spot of Rf 0.1 on a silica thin layer plate developed with carbon tetrachloride are combined. Evaporation of the solvent under reduced pressure leaves the white crystalline product, m.p. 76°-78°C.

reactant | 10,11-dihydro-5,5,10,10,11,11-hexafluoro-5H-dibenzo[a,d]cycloheptene | 0.00328 mole | FC1(C2=C(C(C(C3=C1C=CC=C3)(F)F)(F)F)C=CC=C2)F | C15H8F6
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | acetic acid | -3.5 ml | C(C)(=O)O | C2H4O2
product | 10,11-Dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one | FC1(C(C2=C(C(C3=C1C=CC=C3)=O)C=CC=C2)(F)F)F | C15H8F4O
